US06420555B1
Preparation 8: 3-(3-Chlorophenyl)-5-(4-chlorobenzoyl)indole
To a solution of 1-methylsulfonyl-3-(3-chlorophenyl)-5-(4-chlorobenzoyl)indole (11.44 g, 25.76 mrnmol, see Preparation 7) in anhydrous THF (150 ml) was added tetrabutylammonium fluoride (33.5 ml, 1.0 M solution in THF). The resulting solution was refluxed under nitrogen for about 3 hrs. The solvent was removed under reduced pressure. The residue was dissolved in EtOAc and washed with 1N HCl (2 times), saturated NaHCO3 aqueous solution (2 times) and brine (2 times), dried over anhydrous MgSO4, filtered and concentrated in vacuo. The residue was purified by column chromatography on silica, eluting with EtOAclhexane 1:4. The title compound was obtained as a yellow solid. Yield=8.1 g, 86%.

reactant | 1-methylsulfonyl-3-(3-chlorophenyl)-5-(4-chlorobenzoyl)indole | 11.44 g | CS(=O)(=O)N1C=C(C2=CC(=CC=C12)C(C1=CC=C(C=C1)Cl)=O)C1=CC(=CC=C1)Cl | C22H15Cl2NO3S
reactant | tetrabutylammonium fluoride | 1.0 M, 33.5 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 3-(3-Chlorophenyl)-5-(4-chlorobenzoyl)indole | ClC=1C=C(C=CC1)C1=CNC2=CC=C(C=C12)C(C1=CC=C(C=C1)Cl)=O | C21H13Cl2NO
